US08580762B2
benzyl 3-(3-((((3aR,4R,6R,6aR)-6-(4-((2,4-dimethoxybenzyl)amino)-7H-pyrrolo[2,3-d]pyrimidin-7-yl)-2,2-dimethyltetrahydrofuro[3,4-d][1,3]dioxol-4-yl)methyl)amino)cyclobutyl)propanoate
A solution of 7-((3aR,4R,6R,6aR)-6-(aminomethyl)-2,2-dimethyltetrahydrofuro[3,4-d][1,3]dioxol-4-yl)-N-(2,4-dimethoxybenzyl)-7H-pyrrolo[2,3-d]pyrimidin-4-amine (20 g, 43.91 mmol), benzyl 3-(3-oxocyclobutyl)propanoate (12.2 g, 52.69 mmol) and HOAc (15 mL) in DCE (200 mL) was stirred at 30° C. for 3 h. NaBH(OAc)3 (18.6 g, 87.81 mmol) was added and the reaction mixture was stirred at 30° C. for another 1 h. The mixture was washed with water (100 mL×2) and brine (100 mL), dried over Na2SO4, filtered and concentrated. The residue was purified by silica gel column chromatography using EA:DCM:MeOH=10:10:1 as eluent to afford the desired compound (21 g, yield: 65%, cis/trans=52/47) as a yellow solid. 1H NMR (500 MHz, MeOD): δH 8.16 (brs, 1H), 7.36-7.29 (m, 5H), 7.22 (d, J=3.5 Hz, 1H), 7.15 (d, J=8.5 Hz, 1H), 6.66 (brs, 1H), 6.54 (d, J=2.0 Hz, 1H), 6.43 (dd, J=8.5 and 2.0 Hz, 1H), 6.20 (brs, 1H), 5.41-5.39 (m, 1H), 5.08 (d, J=3.0 Hz, 1H), 4.99-4.95 (m, 1H), 4.66 (s, 2H), 4.30-4.25 (m, 1H), 3.83 (s, 3H), 3.76 (s, 3H), 3.38-3.35 (m, 0.5H), 3.11-3.06 (m, 0.5H), 2.92-2.82 (m, 2H), 2.29-2.18 (m, 3H), 2.12-2.05 (m, 0.5H), 1.90-1.68 (m, 4H), 1.63-1.61 (m, 1H), 1.60 (s, 3H), 1.38 (s, 3H), 1.35-1.28 (m, 0.5H), 1.25 (t, J=6.5 Hz, 2H), 1.15-1.12 (m, 0.5H) ppm; ESI-MS (negative mode, m/z): 670.3 [M−1]+.

reactant | 7-((3aR,4R,6R,6aR)-6-(aminomethyl)-2,2-dimethyltetrahydrofuro[3,4-d][1,3]dioxol-4-yl)-N-(2,4-dimethoxybenzyl)-7H-pyrrolo[2,3-d]pyrimidin-4-amine | 43.91 mmol, 20 g | NC[C@H]1O[C@H]([C@H]2[C@@H]1OC(O2)(C)C)N2C=CC1=C2N=CN=C1NCC1=C(C=C(C=C1)OC)OC | C23H29N5O5
reactant | benzyl 3-(3-oxocyclobutyl)propanoate | 52.69 mmol, 12.2 g | O=C1CC(C1)CCC(=O)OCC1=CC=CC=C1 | C14H16O3
reactant | HOAc | 15 mL | CC(=O)O | C2H4O2
reactant | NaBH(OAc)3 | 87.81 mmol, 18.6 g | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
solvent | DCE | 200 mL | ClCCCl | C2H4Cl2
solvent | MeOH | CO | CH4O
solvent | DCM | C(Cl)Cl | CH2Cl2
product | benzyl 3-(3-((((3aR,4R,6R,6aR)-6-(4-((2,4-dimethoxybenzyl)amino)-7H-pyrrolo[2,3-d]pyrimidin-7-yl)-2,2-dimethyltetrahydrofuro[3,4-d][1,3]dioxol-4-yl)methyl)amino)cyclobutyl)propanoate | 21 g, yield: 65% | COC1=C(CNC=2C3=C(N=CN2)N(C=C3)[C@@H]3O[C@@H]([C@@H]2[C@H]3OC(O2)(C)C)CNC2CC(C2)CCC(=O)OCC2=CC=CC=C2)C=CC(=C1)OC | C37H45N5O7
